
************************************
*	Library & Technology settings
************************************

* Library containing the transistor model from the foundry
.lib '/dir/TECHNOLOGY/cds2024/TSMC-N65/CMOS/LP/pdk/models/eldo/toplevel.eldo' tt_lib

*** Include device netlist (CascodeMillerOTA defines device sizes and internal params)
.include ./CascodeMillerOTA.cir

***** Supply voltage *****
VVDD VDD GND DC vdd_val

***** DC & AC *****

VVINp INp GND DC VIN AC +V0
VVINm INm GND DC VIN AC -V0

**********************************
*	Simulations and Measurements
**********************************

***** DC *****

.OP

.extract DC label=IN V(INp)
.extract DC label=VOUT V(OUT)
.extract DC label=VSG12 -VGS(xM1.MAIN)
.extract DC label=VSD1 -VDS(xM1.MAIN)
.extract DC label=VSD2 -VDS(xM2.MAIN)
.extract DC label=VGS34 -VGS(xM3.MAIN)
.extract DC label=VDS3 -VDS(xM3.MAIN)
.extract DC label=VDS4 -VDS(xM4.MAIN)
.extract DC label=VGS5 VGS(xM5.MAIN)
.extract DC label=VDS5 VDS(xM5.MAIN)
.extract DC label=VSG6 VGS(xM6.MAIN)
.extract DC label=VSD6 VDS(xM6.MAIN)
.extract DC label=VSG7 VGS(xM7.MAIN)
.extract DC label=VSD7 VDS(xM7.MAIN)
.extract DC label=VSG8 VGS(xM8.MAIN)
.extract DC label=VSD8 VDS(xM8.MAIN)
.extract DC label=VSG9 -VGS(xM9.MAIN)
.extract DC label=VSD9 -VDS(xM9.MAIN)
.extract DC label=VGS10 VGS(xM10.MAIN)
.extract DC label=VDS10 VDS(xM10.MAIN)
.extract DC label=VSG11 -VGS(xM11.MAIN)
.extract DC label=VSD11 -VDS(xM11.MAIN)
.extract DC label=VSD12 -VDS(xM12.MAIN)
.extract DC label=VSG13 VGS(xM13.MAIN)
.extract DC label=VSD13 VDS(xM13.MAIN)
.extract DC label=VSG14 VGS(xM14.MAIN)
.extract DC label=VSD14 VDS(xM14.MAIN)
.extract DC label=VSG15 VGS(xM15.MAIN)
.extract DC label=VSD15 VDS(xM15.MAIN)

*** Currents
.extract DC label=ID1  I(xM1.MAIN.S)
.extract DC label=ID2  I(xM2.MAIN.S)
.extract DC label=ID3  I(xM3.MAIN.S)
.extract DC label=ID4  I(xM4.MAIN.S)
.extract DC label=ID5  I(xM5.MAIN.D)
.extract DC label=ID6  I(xM6.MAIN.D)
.extract DC label=ID7  I(xM7.MAIN.D)
.extract DC label=ID8  I(xM8.MAIN.D)
.extract DC label=ID9  I(xM9.MAIN.S)
.extract DC label=ID10 I(xM10.MAIN.D)
.extract DC label=ID11 I(xM11.MAIN.S)
.extract DC label=ID12 I(xM12.MAIN.S)
.extract DC label=ID13 I(xM13.MAIN.D)
.extract DC label=ID14 I(xM14.MAIN.D)
.extract DC label=ID15 I(xM15.MAIN.D)

* (gm/ID)'s 
.extract DC label=gm_over_ID1 'gm(xM1.MAIN)/ID1'
.extract DC label=gm_over_ID2 'gm(xM2.MAIN)/ID2'
.extract DC label=gm_over_ID3 'gm(xM3.MAIN)/ID3'
.extract DC label=gm_over_ID4 'gm(xM4.MAIN)/ID4'
.extract DC label=gm_over_ID6 'gm(xM6.MAIN)/ID6'
.extract DC label=gm_over_ID7 'gm(xM7.MAIN)/ID7'
.extract DC label=gm_over_ID8 'gm(xM8.MAIN)/ID8'
.extract DC label=gm_over_ID9 'gm(xM9.MAIN)/ID9'
.extract DC label=gm_over_ID10 'gm(xM10.MAIN)/ID10'
.extract DC label=gm_over_ID11 'gm(xM11.MAIN)/ID11'
.extract DC label=gm_over_ID12 'gm(xM12.MAIN)/ID12'
.extract DC label=gm_over_ID13 'gm(xM13.MAIN)/ID13'
.extract DC label=gm_over_ID14 'gm(xM14.MAIN)/ID14'
.extract DC label=gm_over_ID15 'gm(xM15.MAIN)/ID15'

* Power consumption
.extract DC label=Power 'V(VDD)*(-I(VVDD)-ID8)'

* Region of operation
.extract DC label=M1 opmode(xM1.MAIN)
.extract DC label=M2 opmode(xM2.MAIN)
.extract DC label=M3 opmode(xM3.MAIN)
.extract DC label=M4 opmode(xM4.MAIN)
.extract DC label=M5 opmode(xM5.MAIN)
.extract DC label=M6 opmode(xM6.MAIN)
.extract DC label=M7 opmode(xM7.MAIN)
.extract DC label=M8 opmode(xM8.MAIN)
.extract DC label=M9 opmode(xM9.MAIN)
.extract DC label=M10 opmode(xM10.MAIN)
.extract DC label=M11 opmode(xM11.MAIN)
.extract DC label=M12 opmode(xM12.MAIN)
.extract DC label=M13 opmode(xM13.MAIN)
.extract DC label=M14 opmode(xM14.MAIN)
.extract DC label=M15 opmode(xM15.MAIN)

***** AC *****


.AC dec ac_dec fmin fmax

*** Gain
.defwave Av = 'v(OUT)/(v(INp)-v(INm))'
.defwave Av1 = 'v(n1)/(v(INp)-v(INm))'
.defwave Av2 = 'v(OUT) / v(n1)'

.extract AC label=Av0 'max(wdb(Av))'
*** Transition Frequency
.extract AC label=fT 'xthres(wdb(Av),0)'
*** Phase Margin
.extract AC label=Phase_Margin '180 - yval(wp(Av),1) + xycond(wp(Av),wdb(Av)<0)'

*** Bode diagram (amplitude and phase)
.plot AC w(Av1) w(Av2)
.plot AC w(Av)

* ------------------------------------------------------------------
* Example exports (uncomment to enable). These produce ASCII .txt
* files that `plot_results.py` can read as `diff_gain.txt` / `cm_gain.txt` / `vdd_out.txt`.
* Syntax may need slight adjustments depending on your Eldo version.
*
* Export differential gain (frequency, Av_dB) to diff_gain.txt
.printfile AC VDB(Av) file=diff_gain.txt format=data
.printfile AC VP(Av) file=diff_phase.txt format=data
*
* Export common-mode gain (run TB_CMRR.cir with common-mode stimulus), output to cm_gain.txt
* .printfile AC VDB(OUT) file=cm_gain.txt format=xy
*
* Export VDD->OUT transfer (run TB_PSRR.cir where VVDD has AC 1) to vdd_out.txt
* .printfile AC VDB(OUT) file=vdd_out.txt format=xy
*
* After running Eldo, these files will contain two columns: frequency (Hz) and magnitude (dB)
* which `plot_results.py` will interpolate and use for CMRR/PSRR plots.
* ------------------------------------------------------------------